US04990523
4-(Aminosulfonyl)benzoic acid pentyl ester
A slurry of 32.1 g (0.15 mole) of p-carboxybenzenesulfonamide, methyl ester in 400 ml of n-pentanol was treated with 25 g of anhydrous hydrogen chloride and the mixture was heated at reflux temperature for 4 hr. The reaction was again treated by the slow addition of anhydrous hydrogen chloride during 8 hr of slow distillation. Approximately 150 ml of distillate was collected. The distillate was replaced in the reaction mixture with 150 ml of n-pentanol and the solution was heated at reflux for 66 hr. Excess pentanol and hydrogen chloride were removed by distillation under vacuum. The residue wad crystallized from a mixture of 350 ml of ethyl acetate and 500 ml of petroleum ether to give 22.0 g (54%) of white flakes, mp 96°-98° C.

reactant | p-carboxybenzenesulfonamide | 0.15 mole, 32.1 g | C(=O)(O)C1=CC=C(C=C1)S(=O)(=O)N | C7H7NO4S
reactant | hydrogen chloride | 25 g | Cl | ClH
solvent | n-pentanol | 400 ml | C(CCCC)O | C5H12O
product | 4-(Aminosulfonyl)benzoic acid pentyl ester | C(CCCC)OC(C1=CC=C(C=C1)S(=O)(=O)N)=O | C12H17NO4S
